US04707485
Benzyltriethylammonium chloride (0.118 g, 0.517 mmole) was added to a solution of 2.3 g (4.5 mmole) of 2-benzoyl-1-(3,4,5-trimethoxybenzyl)-6,7-dichloro-1-cyano-1, 2-dihydroisoquinoline in 40 ml of toluene. The stirred solution was flushed with nitrogen and then 19 ml of 50% sodium hydroxide solution was added in one portion. The reaction mixture was stirred and refluxed under nitrogen for 1.5 hours; it was then cooled and 25 ml of water and 25 ml of ethyl acetate were added. The organic layer was separated, washed (water, brine), dried (magnesium sulfate) and concentrated. The residue in a small volume of methanol was acidified with hydrogen chloride and ether was added to give 6,7-dichloro-1-(3,4,5-trimethyoxybenzyl)isoquinoline hydrochloride as white crystals, melting at 211°-212° C., after recrystallization from methanol-ether.

reactant | 2-benzoyl-1-(3,4,5-trimethoxybenzyl)-6,7-dichloro-1-cyano-1, 2-dihydroisoquinoline | 4.5 mmole, 2.3 g | C(C1=CC=CC=C1)(=O)N1C(C2=CC(=C(C=C2C=C1)Cl)Cl)(C#N)CC1=CC(=C(C(=C1)OC)OC)OC | C27H22Cl2N2O4
catalyst | Benzyltriethylammonium chloride | 0.517 mmole, 0.118 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 6,7-dichloro-1-(3,4,5-trimethyoxybenzyl)isoquinoline hydrochloride | Cl.ClC=1C=C2C=CN=C(C2=CC1Cl)CC1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C19H17Cl2NO3.ClH/c1-23-17-7-11(8-18(24-2)19(17)25-3)6-16-13-10-15(21)14(20)9-12(13)4-5-22-16;/h4-5,7-10H,6H2,1-3H3;1H
